US06797718B2
Solid potassium acetate (0.62 g, 6.32 mmol) was added to a solution of N-{2-[2-(4-amino-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide (1.8 g, 5.27 mmol) in acetic acid (32 mL). After the potassium acetate had dissolved bromine (1.26 g, 7.91 mmol) was added dropwise. The reaction was stirred at ambient temperature for 40 minutes at which time analysis by thin layer chromatography indicated that the reaction was complete. Excess bromine was quenched by the addition of saturated aqueous sodium bisulfite (˜1 mL). The pH of the reaction mixture was adjusted to pH 7 by the addition of saturated aqueous sodium bicarbonate (100 mL) followed by the addition of solid sodium bicarbonate. The reaction mixture was extracted with dichloromethane (2×100 mL). The combined extracts were washed sequentially with water, saturated aqueous sodium bicarbonate (100 mL) and brine (100 mL), dried over sodium sulfate, filtered and then concentrated under reduced pressure to provide a brown gooey solid. This material was purified by chromatography (silica gel eluting with 95:5 dichloromethane:methanol) to provide 1.7 g of N-{2-[2-(4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide as a white waxy solid, mp 129-131° C.

reactant | potassium acetate | 6.32 mmol, 0.62 g | C(C)(=O)[O-].[K+]
reactant | N-{2-[2-(4-amino-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide | 5.27 mmol, 1.8 g | NC1=NC=CC2=C1N=C(N2CCOCCNS(=O)(=O)C)CCC | C14H23N5O3S
reactant | bromine | 7.91 mmol, 1.26 g | BrBr | Br2
solvent | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
product | N-{2-[2-(4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}methanesulfonamide | 1.7 g | NC1=NC=C(C2=C1N=C(N2CCOCCNS(=O)(=O)C)CCC)Br | C14H22BrN5O3S
